US07538241B2
In the same manner as in the step 1 in Example 316, methyl 3-{2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethylamino}-3-hydroxypropionate was obtained from 2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethanal (280 mg, 0.64 mmol) obtained in the step 1 in Example 218, using acetic acid (0.6 mL), methyl 3-amino-3-hydroxypropionate (150 mg, 0.97 mmol), sodium triacetoxyborohydride (270 mg, 1.3 mmol) and 1,2-dichloroethane (6.0 mL). Then, in the same manner as in the step 2 in Example 315, methyl 3-{2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethyl}-2-oxo-1,3-oxazolidine-4-carboxylate (230 mg, 63%) was obtained from methyl 3-{2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethylamino}-3-hydroxypropionate obtained in the above.

reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
reactant | methyl 3-amino-3-hydroxypropionate | 0.97 mmol, 150 mg | NC(CC(=O)OC)O | C4H9NO3
reactant | sodium triacetoxyborohydride | 1.3 mmol, 270 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 3-{2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethylamino}-3-hydroxypropionate | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C1)OCC1=CC=CC=C1)C1=CC=CC=C1)CCNC(CC(=O)OC)O)CC | C34H37NO5
solvent | 1,2-dichloroethane | 6.0 mL | ClCCCl | C2H4Cl2
product | methyl 3-{2-[3,5-bis(benzyloxy)-2-ethyl-6-phenylphenyl]ethyl}-2-oxo-1,3-oxazolidine-4-carboxylate | 230 mg, 63% | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C1)OCC1=CC=CC=C1)C1=CC=CC=C1)CCN1C(OCC1C(=O)OC)=O)CC | C35H35NO6
